US07495103B2
A mixture of 2-(2-dimethylamino-vinyl)-3,5-dinitro-benzoic acid ethyl ester (11.3 g, 0.037 mol) and SnCl2 (83 g. 0.37 mol) in ethanol was heated at reflux for 4 h. The mixture was concentrated to dryness and the residue was poured into water and basified with sat. Na2CO3 solution to pH 8. The precipitate was filtered off and the filtrate was extracted with ethyl acetate (3×100 mL). The combined extracts were washed with water (2×100 mL) and brine (150 mL), dried over Na2SO4 and concentrated to dryness. The residue was purified by column chromatography on silica gel to give 6-amino-1H-indole-4-carboxylic acid ethyl ester (B-18) (3 g, 40%). 1H NMR (DMSO-d6) δ 10.76 (br s, 1H), 7.11-7.14 (m, 2H), 6.81-6.82 (m, 1H), 6.67-6.68 (m, 1H), 4.94 (br s, 2H), 4.32-4.25 (q, J=7.2 Hz, 2H), 1.35-1.31 (t, J=7.2, 3 H). ESI-MS 205.0 m/z (MH+).

reactant | 2-(2-dimethylamino-vinyl)-3,5-dinitro-benzoic acid ethyl ester | 0.037 mol, 11.3 g | C(C)OC(C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])C=CN(C)C)=O | C13H15N3O6
reactant | SnCl2 | 0.37 mol, 83 g | Cl[Sn]Cl
solvent | ethanol | C(C)O | C2H6O
product | 6-amino-1H-indole-4-carboxylic acid ethyl ester | 3 g, 40% | C(C)OC(=O)C=1C=2C=CNC2C=C(C1)N | C11H12N2O2
